US07410963B2
3-[8-Methoxy-7-(2-methoxy-phenyl)-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 9 using the same method described for Example 1 and instead of using benzene boronic acid, we used o-methoxyphenyl boronic acid. The title compound (80 mg) was obtained as a white solid, in 50% yield.

reactant | 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C18H14BrN3O2
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | o-methoxyphenyl boronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 3-[8-Methoxy-7-(2-methoxy-phenyl)-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 80 mg, 50% yield | COC=1C(=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C1)C1=C(C=CC=C1)OC | C25H21N3O3
